US07262185B2
To a solution of 5-ethylthio-3-hydroxymethyl-4-isobutyl-4H-1,2,4-triazole (1.0 g) in chloroform (3 ml), thionyl chloride (8 ml) was slowly added at 0° C. The mixture was heated to reflux for 1 hour, and concentrated under reduced pressure. To the residue was added diethylether, and the precipitated crystals were collected by filtration. The crystals were washed with diethylether, to give 3-chloromethyl-5-ethylthio-4-isobutyl-4H-1,2,4-triazole hydrochloride (0.64 g) as colorless crystals.

reactant | 5-ethylthio-3-hydroxymethyl-4-isobutyl-4H-1,2,4-triazole | 1.0 g | C(C)SC=1N(C(=NN1)CO)CC(C)C | C9H17N3OS
reactant | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | thionyl chloride | 8 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-chloromethyl-5-ethylthio-4-isobutyl-4H-1,2,4-triazole hydrochloride | 0.64 g | Cl.ClCC1=NN=C(N1CC(C)C)SCC | InChI=1S/C9H16ClN3S.ClH/c1-4-14-9-12-11-8(5-10)13(9)6-7(2)3;/h7H,4-6H2,1-3H3;1H
